US09260410B2
A solution of 2-amino-4-((4-nitronaphthalen-1-yloxy)methyl)pyridine (4.50 g, 15.24 mmol) in MeOH (200 mL) and AcOH (200 mL) was passed through a Thales H-cube (2.0 mL·min−1, 40° C., 55 mm 10% Pt/C Cat-Cart, full hydrogen mode) and the volatiles were removed in vacuo. The crude product was subjected to SCX capture and release and the solvent was removed in vacuo to give 2-amino-4-((4-aminonaphthalen-1-yloxy)methyl)pyridine, (3.82 g, 94%) as a purple solid: m/z 266 (M+H)+ (ES+).

reactant | 2-amino-4-((4-nitronaphthalen-1-yloxy)methyl)pyridine | 15.24 mmol, 4.50 g | NC1=NC=CC(=C1)COC1=CC=C(C2=CC=CC=C12)[N+](=O)[O-] | C16H13N3O3
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 200 mL | CO | CH4O
solvent | AcOH | 200 mL | CC(=O)O | C2H4O2
catalyst | Pt/C | [Pt] | Pt
product | 2-amino-4-((4-aminonaphthalen-1-yloxy)methyl)pyridine | 3.82 g, 94% | NC1=NC=CC(=C1)COC1=CC=C(C2=CC=CC=C12)N | C16H15N3O
